US09278983B2
To a pressure-resistant reaction container, (3-bromo-5-trifluoromethylsulfanylpyridine-2-yl)-methylamine (1.96 g), acetylacetone copper (II) (89 mg), acetylacetone (0.27 g), cesium carbonate (2.34 g), and NMP (7 ml), 28% of aqueous ammonia (5 ml) was added, and stirred at 110° C. for 8.5 hours. After the mixture was cooled to room temperature, into the reaction mixture, water was poured. The insoluble material was filtered through Celite®, and then the filtered material was washed with ethyl acetate, and filtrate was extracted with ethyl acetate. The combined organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 1.18 g of N2-methyl-5-trifluoromethylsulfanylpyridine-2,3-diamine (Compound (1F)-3).

reactant | (3-bromo-5-trifluoromethylsulfanylpyridine-2-yl)-methylamine | 1.96 g | BrC=1C(=NC=C(C1)SC(F)(F)F)NC | C7H6BrF3N2S
reactant | acetylacetone | 0.27 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | cesium carbonate | 2.34 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ammonia | 5 ml | N | H3N
catalyst | acetylacetone copper (II) | 89 mg | [Cu+2].C(C)(=O)CC(C)=O
solvent | water | O | H2O
solvent | NMP | 7 ml | CN1CCCC1=O | C5H9NO
product | N2-methyl-5-trifluoromethylsulfanylpyridine-2,3-diamine | 1.18 g | CNC1=NC=C(C=C1N)SC(F)(F)F | C7H8F3N3S
